US08283354B2
6-Fluoro-2-anisoic acid (110 g, 0.70 mol) was added in portions over 15 minutes to a mixture of thionyl chloride (230 ml, 3.2 mol), toluene (200 mL), and DMF (1 mL). The resulting mixture was stirred overnight at room temperature. The solution was evaporated to dryness and added dropwise to an ice-bath cooled solution of 2-amino-4-methylbenzonitrile (92.5 g, 0.70 mol) in pyridine (200 mL). The dropping funnel was rinsed with a minimal amount of acetonitrile. The resulting mixture was stirred overnight at room temperature under a nitrogen atmosphere and was subsequently poured into 2 L ice water. The resulting slurry was stirred vigorously for 1 hour. The formed solid was collected by filtration and was washed twice with water. The filter cake was dissolved in 2 L dichloromethane, and this solution was washed with 1 N aq. HCl (400 mL) and with saturated aq. NaCl (400 mL), dried over sodium sulfate, filtered, and evaporated to dryness to give N-(2-cyano-5-methylphenyl)-2-fluoro-6-methoxybenzamide (186 g, 93%) as a brownish solid. 1H-NMR (CDCl3, 200 MHz): δ 9.09 (s, 1H), 8.58 (s, 1H), 7.59-7.42 (m, 2H), 7.09-7.02 (m, 1H), 6.94-6.83 (m, 2H), 4.11 (s, 3H), 2.57 (s, 3H) ppm.

reactant | 6-Fluoro-2-anisoic acid | 0.70 mol, 110 g | FC=1C=CC=C(C1C(=O)O)OC | C8H7FO3
reactant | thionyl chloride | 3.2 mol, 230 ml | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-amino-4-methylbenzonitrile | 0.70 mol, 92.5 g | NC1=C(C#N)C=CC(=C1)C | C8H8N2
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(2-cyano-5-methylphenyl)-2-fluoro-6-methoxybenzamide | 186 g, 93% | C(#N)C1=C(C=C(C=C1)C)NC(C1=C(C=CC=C1OC)F)=O | C16H13FN2O2
